US05856573
Preparation of 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide Methanol (2 ml) and a 36% aqueous hydrochloric acid solution (0.01 g, 0.0001 mol) were added to an E/Z mixture of 2-methoxyimino-N-methyl-2-[2-(2-tetrahydropyranyloxymethyl)phenyl]acetamide (0.31 g, 0.001 mol), and the mixture was stirred at room temperature for 30 minutes. After completion of the reaction, half-saturated brine (80 ml) was added, and the mixture was extracted with dichloromethane (50 ml) twice. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide (0.21 g, Yield: 94.6%, E/Z=97/3) as colorless crystals.

reactant | 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide Methanol | CO.OCC1=C(C=CC=C1)C(C(=O)NC)=NOC
reactant | hydrochloric acid | 0.0001 mol, 0.01 g | Cl | ClH
reactant | 2-methoxyimino-N-methyl-2-[2-(2-tetrahydropyranyloxymethyl)phenyl]acetamide | 0.001 mol, 0.31 g | CON=C(C(=O)NC)C1=C(C=CC=C1)COC1OCCCC1 | C16H22N2O4
solvent | brine | 80 ml | [Cl-].[Na+].O
product | 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide | 0.21 g, Yield: 94.6% | OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C11H14N2O3
